US06251926B1
To a solution of sodium ethoxide prepared from sodium (1.09 g) and ethanol (20 ml), a solution of 3-phenoxyphenylacetonitrile (8.30 g) in ethanol (15 ml) was added dropwise at 0° C., and then isoamyl nitrite (7.99 ml) was added dropwise. After stirring for 15 hours at room temperature, diethyl ether was added and the mixture was washed sequentially with 1N HCl, aqueous sodium bicarbonate and then saturated aqueous sodium chloride. The diethyl ether layer was dried (MgSO4), concentrated, and the residue was subjected to column chromatography on silica gel. The crystals obtained from a fraction eluted with ethyl acetate-hexane (1:4, v/v) were recrystallized with ethyl acetate-hexane to obtain 2-hydroxyimino-2-(3-phenoxyphenyl)acetonitrile (4.25 g, yield: 45%) as pale-yellow crystals. A mixture of the E- form and the Z- form. m.p. 124-125° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 1.09 g | [Na] | Na
reactant | 3-phenoxyphenylacetonitrile | 8.30 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC#N | C14H11NO
reactant | isoamyl nitrite | 7.99 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-hydroxyimino-2-(3-phenoxyphenyl)acetonitrile | 4.25 g, yield: 45% | ON=C(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1 | C14H10N2O2
